US06235731B1
3) Synthesis of 6-tert-butyldimethylsiloxy-2-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman
Under nitrogen, a solution of 11.35 g (28.91 mM) of methyl 6-tert-butyldimethylsiloxy-2,5,7,8-tetramethylchroman-2-acetate in diethyl ether (10 ml) was added to a suspension of 1.1 g (28.99 mM) of lithium aluminum hydride in diethyl ether (50 ml) at 0° C. and the mixture was stirred at the prevailing temperature for one hour. Then, water (1.1 ml), 15% aqueous solution of NaOH (1.1 ml), and water (1.1 ml) were added in that order and the mixture was stirred at room temperature for 30 minutes. To this mixture was added magnesium sulfate, and after the precipitate was filtered off, the solvent was distilled off under reduced pressure to provide a crude product. This crude product was purified by column chromatography (ethyl acetate-hexane: 20-30%) to provide the title compound as light-yellow oil (9.65 g, 92%).

reactant | methyl 6-tert-butyldimethylsiloxy-2,5,7,8-tetramethylchroman-2-acetate | 28.91 mM, 11.35 g | O([Si](C)(C)C(C)(C)C)C=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)OC)C)C | C22H36O4Si
reactant | lithium aluminum hydride | 28.99 mM, 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 1.1 ml | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 1.1 ml | O | H2O
solvent | water | 1.1 ml | O | H2O
product | 6-tert-butyldimethylsiloxy-2-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman | 9.65 g, 92% | O([Si](C)(C)C(C)(C)C)C=1C(=C2CCC(OC2=C(C1C)C)(C)CCO)C | C21H36O3Si
